US06187905B1
50 mg (0.042 mmol) of 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide were dissolved in 3 ml of trifluoroacetic acid and the solution was stirred at room temperature for 30 minutes. The solution was then diluted with 10 ml of toluene and the solvent was removed by evaporation. The solid was triturated with diethyl ether to give 29 mg of 3(RS)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide as a white solid, MS: m/e 1020.4 [M+H]+.

reactant | 3(RS)-[[N-[N-[N-[N-[N-[3-(tert-butoxycarbonyl)propionyl]-O-tert-butyl-L-α-aspartyl]-O-tert-butyl-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide | 0.042 mmol, 50 mg | C(C)(C)(C)OC(=O)CCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](CCC(OC(C)(C)C)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C(C(=O)NC1=C(C=C(C=C1)C)C)=O)CC(F)(F)F | C60H88F3N7O14
solvent | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 3(RS)-[[N-[N-[N-[N-[N-(3-carboxypropionyl)-L-α-aspartyl]-L-α-glutamyl]-2-methyl-L-phenylalanyl]-3-methyl-L-valyl]-L-leucyl]amino]-5,5,5-trifluoro-2′,4′-dimethyl-2-oxovaleranilide | 29 mg | C(=O)(O)CCC(=O)N[C@@H](CC(O)=O)C(=O)N[C@@H](CCC(O)=O)C(=O)N[C@@H](CC1=C(C=CC=C1)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N[C@@H](CC(C)C)C(=O)NC(C(C(=O)NC1=C(C=C(C=C1)C)C)=O)CC(F)(F)F | C48H64F3N7O14
